US04061697
2,6-Diamino-4-carbomethoxy-benzene-phosphonic acid diethyl ester
80 g (0.221 mol) of 2,6-dinitro-4-carbomethoxy-benzene-phosphonic acid diethylester, 1000 ml of ethanol and 15 g of Raney nickel.

reactant | 2,6-dinitro-4-carbomethoxy-benzene-phosphonic acid diethylester | 0.221 mol, 80 g | C(C)OP(OCC)(=O)C1=C(C=C(C=C1[N+](=O)[O-])C(=O)OC)[N+](=O)[O-] | C12H15N2O9P
catalyst | Raney nickel | 15 g | [Ni] | Ni
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 2,6-Diamino-4-carbomethoxy-benzene-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C1=C(C=C(C=C1N)C(=O)OC)N | C12H19N2O5P
